US08357679B2
A: 2-(4-((4-(4-Amino-3-fluorobenzyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
Borane tetrahydrofuran complex (13.05 mmol, 1.26 mL, 1.121 g) was added to a solution of (4-amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone (1.043 mmol, 0.5 g) in tetrahydrofuran (8 mL) under nitrogen and the reaction heated to reflux for 5.5 hours. 5M Hydrochloric acid (10 mL) was added and the reaction was heated to reflux for 30 minutes, and then was cooled to ambient temperature. The product was extracted into dichloromethane (50 mL), washed with water (3×50 mL), dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by preparative HPLC affording the title compound (0.143 g). MS (ESI) m/z 466.0 [M+H]+

reactant | (4-amino-3-fluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 1.043 mmol, 0.5 g | NC1=C(C=C(C=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C21H20F7N3O2
reactant | Hydrochloric acid | 5M, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-(4-((4-(4-Amino-3-fluorobenzyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.143 g | NC1=C(C=C(CN2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)F | C21H22F7N3O
